US07414067B2
Step B: N-Cyclohexyl-N-(2-t-butoxycarbonylaminoeth-1-yl)amine
To a solution of 1.04 mL (1.0 mmol) of cyclohexanone and 1.6 g (1.0 mmol) of N-(2-t-butoxycarbonylaminoeth-1-yl)amine in 24 mL of tetrahydrofuran were added 0.71 mL (1.2 mmol) of acetic acid and 2.97 g (1.4 mmol) of sodium triacetoxyborohydride. The reaction stirred at room temperature for 20 hr then saturated sodium bicarbonate (12 mL) was added and the mixture extracted with ethyl acetate (12 mL). The organic phase was washed with more saturated sodium bicarbonate (12 mL) and brine (12 mL). At this point a crystalline precipitate formed which was filtered off and washed with water and ethyl acetate to leave the title compound.

reactant | cyclohexanone | 1.0 mmol, 1.04 mL | C1(CCCCC1)=O | C6H10O
reactant | N-(2-t-butoxycarbonylaminoeth-1-yl)amine | 1.0 mmol, 1.6 g | C(C)(C)(C)OC(=O)NCCN | C7H16N2O2
reactant | acetic acid | 1.2 mmol, 0.71 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 1.4 mmol, 2.97 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 12 mL | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 24 mL | O1CCCC1 | C4H8O
product | N-Cyclohexyl-N-(2-t-butoxycarbonylaminoeth-1-yl)amine | C1(CCCCC1)NCCNC(=O)OC(C)(C)C | C13H26N2O2
